US04064266
Chloroform (95 gm) was added dropwise with mechanical stirring to a mixture of sodium hydroxide (120 gm), water (120 gm) methanol (50 ml) and o-tert-butylphenol (100 gm) over 2 hours at 50° C. The mixture was stirred at 50° for 1 hour and then poured into water (600 ml) and acidified to pH5 with concentrated hydrochloric acid. The oily layer that formed was collected and steam distilled. The residue from the steam distillation was taken into chloroform (200 ml) and extracted with 2N sodium hydroxide. The basic extracts were acidified and the product formed was crystallised from petroleum ether to give 3-tert-butyl-4-hydroxybenzaldehyde as colourless prisms m.p. 142°.

reactant | Chloroform | 95 gm | C(Cl)(Cl)Cl | CHCl3
reactant | sodium hydroxide | 120 gm | [OH-].[Na+]
reactant | o-tert-butylphenol | 100 gm | C(C)(C)(C)C1=C(C=CC=C1)O | C10H14O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 600 ml | O | H2O
solvent | water | 50 ml, 120 gm | O | H2O
product | 3-tert-butyl-4-hydroxybenzaldehyde | C(C)(C)(C)C=1C=C(C=O)C=CC1O | C11H14O2
